2161-03-13 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.3
F - [**2161-3-12**] 04:00 PM
   -- patient with elevated blood pressure (SBP > 180) due to recent
   hemoptysis and history of DM2 started lisinopril 10 mg po daily
   -- overnight given lasix 40 mg IV once in preparation for possible
   extubation in the am
   -- patient required several boluses of propofol overnight for agitation
   during cleaning
   -- subsequent to propofol boluses and lasix IV patient became
   hypotensive with SBP 80-90 and MAP (52-60).  Propofol gtt decreased
   from 50 to 30.  Patient given 250 cc NS x 2.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-3-12**] 08:00 PM
   Cefipime - [**2161-3-13**] 12:08 AM
   Ciprofloxacin - [**2161-3-13**] 02:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2161-3-12**] 03:59 PM
   Famotidine (Pepcid) - [**2161-3-12**] 08:00 PM
   Fentanyl - [**2161-3-12**] 08:00 PM
   Furosemide (Lasix) - [**2161-3-13**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-13**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**62**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.1
C (98.8
   HR: 80 (66 - 109) bpm
   BP: 103/56(70) {89/48(60) - 191/88(124)} mmHg
   RR: 23 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122 kg (admission): 117.5 kg
    CVP: 11 (8 - 15)mmHg
   Total In:
                                                                  2,529 mL
                                                                  1,130 mL
   PO:
   TF:
   IVF:
                                                                  2,189 mL
                                                                  1,040 mL
   Blood products:
   Total out:
                                                                  1,915 mL
                                                                  1,280 mL
   Urine:
                                                                  1,915 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    614 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 602 (602 - 602) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 8 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/41/72/21/-1
   Ve: 12 L/min
   PaO2 / FiO2: 180
   Physical Examination
   GENERAL:intubated, sedated, obese male
   HEENT: NC/AT, PERRL, MMM
   CARDIAC: s1/s2 present, -mrg
   LUNG: anterior lung exam clear to auscultation
   ABDOMEN: +BS, soft, mildly distended
   EXT: 2+ pulses, no edema, no palpable cords, no cyanosis, warm and well
   perfused
   NEURO: sedated, moving lumbs
   Labs / Radiology
   105 K/uL
   9.1 g/dL
   94 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   20 mg/dL
   110 mEq/L
   137 mEq/L
   26.9 %
   7.2 K/uL
        [image002.jpg]
                             [**2161-3-11**]  06:37 PM
                             [**2161-3-11**]  06:52 PM
                             [**2161-3-11**]  10:54 PM
                             [**2161-3-11**]  11:12 PM
                             [**2161-3-12**]  04:25 AM
                             [**2161-3-12**]  04:39 AM
                             [**2161-3-12**]  10:09 AM
                             [**2161-3-12**]  03:35 PM
                             [**2161-3-13**]  03:34 AM
   WBC
   4.2
   10.3
   9.2
   7.2
   Hct
   34.8
   33.8
   31.2
   26.9
   Plt
   122
   151
   107
   105
   Cr
   1.0
   1.0
   0.9
   0.8
   TropT
   0.01
   TCO2
   18
   18
   18
   22
   24
   Glucose
   109
   104
   107
   94
   Other labs: PT / PTT / INR:15.2/35.8/1.3, CK / CKMB /
   Troponin-T:428/9/0.01, ALT / AST:27/43, Alk Phos / T Bili:51/0.9,
   Differential-Neuts:61.0 %, Band:18.0 %, Lymph:13.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:2.0 mmol/L, Albumin:2.8 g/dL, LDH:332 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 CHRONIC PAIN
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HEMOPTYSIS
 PULMONARY EMBOLISM (PE), ACUTE
   This is a 58 yo male with history of morbid obesity, s/p gastric
   bypass, h/o DVT presenting with massive hemoptysis and found to have
   bilateral PEs.
   .
   # Massive Hemoptysis / PEs:  due to agitation unable to have a
   spontaneous breathing trial.  Continue to monitor hct and for further
   bleeding.
   -f/u antibodies to evaluate for vasculitis
   -holding aspirin
   -s/p IVC filter, no anticoagulation given massive hemoptysis
   - ECHO today to look for RH strain
   # Respiratory failure: Intubated for airway protection.  Extubation
   largely limited by agitation.
   - diurese as tolerated
   - anxiolytics for extubation
   - scheduled MDI
   # HTN: Was HTN overnight. Was started on lisinopril as patient has DM2
   and fear of flash pulm edema when extubated.
   - hold lisinopril for now given attempted diuresis today
   - continue to monitor
   .
   # Fever / bandemia: continue to f/u blood and sputum cultures.
   -treat w/ cefepime vanco given bandemia and fever, although more likely
   related to massive hemoptysis and pulmonary infarction related to Pess
   - narrow abx today to vanco and
   # Chronic Pain:
   -continue methadone
   # DM II: SSI.
   .
   # GERD: PPI
   ICU Care
   Nutrition: TF if unable to extubate today.
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-11**] 05:16 PM
   Arterial Line - [**2161-3-11**] 06:28 PM
   Multi Lumen - [**2161-3-11**] 09:00 PM
   Prophylaxis:
   DVT: none (IVC filter)
   Stress ulcer: PPI
   VAP:  chlorhexadine washes and HOB > 30
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient and agree with the assessment and
   plan as described with the following modifications/emphasis:
   Overnight, had one episode of hypotension in relation to propofol/lasix
   T 102 -> 98  P 94  BP 95/60  Sat: 95%
   Gen: intubated, sedated
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: no edema
   Labs reviewed and as above
   Assessment:
   1)       Respiratory Failure
   2)       Pulmonary Embolism
   3)       Aspiration
 pneumonitis/pneumonia
   4)       Shock
 improved/resolved
   Plan:
   1)       SBT -> possible extubation this afternoon
   2)       Seroquel for agitation
   3)       Continue antibiotics
   4)       Review repeat ECHO
   5)       Checking anti-phospholipid antibody
   Time Spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2161-3-13**] 11:44 ------

2161-03-14 08:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -patient extubated and doing well
   -R trapezius pain with some numbness of fingertips, patient refusing CT
   scan of neck
   -ECHO with moderate RV dilation and moderate RV hypokinesis
   -hct stable
   -cefepime discontinued, on vanc/cipro
   -40mg IV lasix given x 2, with very brisk diuresis
   -seroquel discontinued
   -percocet ordered for pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2161-3-13**] 12:08 AM
   Vancomycin - [**2161-3-13**] 08:02 AM
   Ciprofloxacin - [**2161-3-14**] 02:26 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2161-3-13**] 03:00 PM
   Labetalol - [**2161-3-13**] 03:26 PM
   Morphine Sulfate - [**2161-3-13**] 07:53 PM
   Hydromorphone (Dilaudid) - [**2161-3-13**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-14**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**62**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 74 (70 - 105) bpm
   BP: 149/62(87) {106/48(65) - 182/79(110)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122 kg (admission): 117.5 kg
   Height: 71 Inch
    CVP: 10 (4 - 12)mmHg
   Total In:
                                                                  2,149 mL
                                                                    329 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  1,869 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                  6,200 mL
                                                                    480 mL
   Urine:
                                                                  6,200 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,051 mL
                                                                   -151 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 481 (481 - 537) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 100%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///24/
   Ve: 12.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   102 K/uL
   8.9 g/dL
   105 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.3 mEq/L
   18 mg/dL
   107 mEq/L
   138 mEq/L
   25.8 %
   8.4 K/uL
        [image002.jpg]
                             [**2161-3-11**]  06:52 PM
                             [**2161-3-11**]  10:54 PM
                             [**2161-3-11**]  11:12 PM
                             [**2161-3-12**]  04:25 AM
                             [**2161-3-12**]  04:39 AM
                             [**2161-3-12**]  10:09 AM
                             [**2161-3-12**]  03:35 PM
                             [**2161-3-13**]  03:34 AM
                             [**2161-3-13**]  05:20 PM
                             [**2161-3-14**]  03:05 AM
   WBC
   10.3
   9.2
   7.2
   10.5
   8.4
   Hct
   33.8
   31.2
   26.9
   28.0
   25.8
   Plt
   151
   107
   105
   122
   102
   Cr
   1.0
   0.9
   0.8
   0.8
   TropT
   0.01
   TCO2
   18
   18
   18
   22
   24
   Glucose
   104
   107
   94
   105
   Other labs: PT / PTT / INR:15.2/35.8/1.3, CK / CKMB /
   Troponin-T:428/9/0.01, ALT / AST:27/43, Alk Phos / T Bili:51/0.9,
   Differential-Neuts:61.0 %, Band:18.0 %, Lymph:13.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:2.0 mmol/L, Albumin:2.8 g/dL, LDH:332 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Imaging: ECHO [**3-13**]:
   Suboptimal image quality. Right ventricular cavity enlargement with
   free wall hypokinesis. Preserved global left ventricular systolic
   function. No definite valvular dysfunction identified.
   Compared with the prior study (images reviewed) of [**2161-3-11**], the right
   ventricular cavity is now smaller and free wall motion is slightly
   improved
   Assessment and Plan
   This is a 58 yo male with history of morbid obesity, s/p gastric
   bypass, h/o DVT presenting with massive hemoptysis and found to have
   bilateral PEs.
   .
   # Massive Hemoptysis / PEs:  successfully extubated. No additional
   bleeding. ECHO shows improved RV dilation and hypokinesis
   -f/u antibodies to evaluate for vasculitis
   -holding aspirin
   -s/p IVC filter, no anticoagulation given massive hemoptysis
   .
   # Respiratory failure: Extubated with stable respiratory status.
   .
   # HTN: BP improved since lisinopril started.
   - continue to monitor
   .
   # Fever / bandemia: Low grade fever to 100.4 yesterday. Sputum gram
   stain with 1+ GPCs and 1+ GNRs
   - continue to f/u blood and sputum cultures.
   -cont cefepime and vancomycin empirically
   .
    # Chronic Pain:
   -continue methadone
   .
   # Anemia: Hct cont to trend down.
   -guiac stools
   -cont to follow
   -active T and S
    .
   # DM II: SSI.
   .
   # GERD: PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-3-11**] 05:16 PM
   Arterial Line - [**2161-3-11**] 06:28 PM
   Multi Lumen - [**2161-3-11**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor